US05153180
9-(2,3-Dideoxy-3-fluoro-β-D-ribofuranosyl)-2-fluoroadenine
A mixture of 2.88 g (10 mMoles) 1-(5-O-acetyl-2,3-dideoxy-3-fluoro-β-D-ribofuranosyl) thymine, 4.6 g (30 mMoles) 2-fluoroadenine, 7.4 ml bistrimethylsilyl acetamide, and 250 ml acetonitrile was heated on reflux for 25 minutes. Subsequently, 6.5 ml (33 mMoles) trifluoromethanesulfonic acid trimethyl ester was added and the reaction mixture heated on reflux for further 8 hours. After removal of the solvent under vacuum the residue was suspended in 100 ml chloroform and neutralized with NaHCO3 solution. The organic phase was dried over sodium sulfate filtered and the chloroform removed under vacuum. The residue was separated by column chromatography on silica gel, eluting with chloroform (1 l of 5% n-hexane; 15 l of 2.5% n-hexane; 1 l of 1% n-hexane). The obtained mixture was deacetylated in a conventional manner by means of ammonia/methanol and was subjected to column chromatographic separation. Chloroform (1% methanol) was used as eluent. 0.51 g was isolated of the β anomer, the title compound. Further compound remained in the mixture with the α anomer.

reactant | 1-(5-O-acetyl-2,3-dideoxy-3-fluoro-β-D-ribofuranosyl) thymine | 10 mMoles, 2.88 g | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)F | C12H15FN2O5
reactant | 2-fluoroadenine | 30 mMoles, 4.6 g | FC1=NC(=C2NC=NC2=N1)N | C5H4FN5
reactant | bistrimethylsilyl acetamide | 7.4 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 9-(2,3-Dideoxy-3-fluoro-β-D-ribofuranosyl)-2-fluoroadenine | F[C@H]1C[C@@H](O[C@@H]1CO)N1C2=NC(=NC(=C2N=C1)N)F | C10H11F2N5O2
